US07553970B2
510 ml of dimethyl carbonate and 1 500 ml of toluene were heated to 100° C. in a 2 L flask and a solution of 257 g of 2-acetylthiophene in 510 ml of dimethyl carbonate was then added dropwise within the space of 4 hours. The methanol which was formed in the reaction was distilled off as an azeotrope. 120 ml of conc. sulphuric acid were introduced, in 900 g of ice, into a 4 L flask and the cooled reaction mixture was added such that 40° C. was not exceeded. The mixture was then stirred and the pH was adjusted to pH 1. The phases were separated and the organic phase was extracted three times by shaking with an aqueous solution of sodium sulphate and then concentrated in vacuo. Vacuum distillation of the crude product yielded 278 g of methyl 3-oxo-(2-thiophenyl)propanoate as a transparent, slightly yellowish liquid (98% pure according to GC, 74% of theory).

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 2-acetylthiophene | 257 g | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | methanol | CO | CH4O
reactant | dimethyl carbonate | 510 ml | C(OC)(OC)=O | C3H6O3
reactant | dimethyl carbonate | 510 ml | C(OC)(OC)=O | C3H6O3
product | methyl 3-oxo-(2-thiophenyl)propanoate | 278 g | O=CC(C(=O)OC)C=1SC=CC1 | C8H8O3S
